US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(pyridin-3-ylamino)phenyl)quinazolin-4(3H)-one
A mixture of 2-(4-bromophenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.200 g, 0.55 mmol), 3-aminopyridine (0.057 g, 0.61 mmol), Cs2CO3 (0.253 g, 0.776 mmol), Xantphos (0.002 g, 0.003 mmol), and Pd2(dba)3 (0.003 g, 0.003 mmol) in dioxane (2 mL) were combined in a microwave tube under nitrogen and irradiated at 300 W, 105° C. for 30 minutes. Then, DMF (1 mL) was added and the flask was irradiated for 1 hour at 300 W, 105° C. Then, the mixture was concentrated and purified by silica gel chromatography, eluting with 92:7:1 CHCl3/MeOH/concentrated NH4OH. The residue was further purified by reverse-phase HPLC, eluting with 10% to 90% CH3CN in H2O with 0.1% TFA, to afford the title compound (0.105 g, 51%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.83 (s, 1H), 8.82 (s, 1H), 8.44 (d, J=2.4 Hz, 1H), 8.11-8.16 (m, 3H), 7.59-7.62 (m, 1H), 7.31-7.35 (m, 1H), 7.13 (d, J=8.7 Hz, 2H), 6.68 (d, J=1.8 Hz, 1H), 6.46 (d, J=1.8 Hz, 1H), 3.88 (s, 3H), 3.83 (s, 3H). APCI MS m/z 375 [M+H]+.

reactant | 2-(4-bromophenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.55 mmol, 0.200 g | BrC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C16H13BrN2O3
reactant | 3-aminopyridine | 0.61 mmol, 0.057 g | NC=1C=NC=CC1 | C5H6N2
reactant | Cs2CO3 | 0.776 mmol, 0.253 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.003 mmol, 0.003 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.003 mmol, 0.002 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 5,7-Dimethoxy-2-(4-(pyridin-3-ylamino)phenyl)quinazolin-4(3H)-one | 0.105 g, 51% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)NC=1C=NC=CC1)=O | C21H18N4O3
